US06486156B1
A solution of methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate (B and Z isomers) (1.9 g; 5.6 mmol) and 2N aqueous sodium hydroxide solution (8.5 ml; 17 mmol) in methanol (100 ml) was refluxed for 9 hours. After evaporation and acidification with 12N HCl (1.5 ml), the resulting solid was washed with distilled water and ether, taken up in dichloromethane/methanol (99/1) to give 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoic acid (E isomer) after evaporation as a foam. Yield: 89%

reactant | methyl 4-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoate | 5.6 mmol, 1.9 g | N1(C=NC=C1)CC=CC1=CC(=C(C(=O)OC)C=C1)C1=CC=C(C=C1)F | C20H17FN2O2
reactant | sodium hydroxide | 17 mmol, 2N, 8.5 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 4-[(E)-3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenyl)benzoic acid | Yield: 89% | N1(C=NC=C1)C/C=C/C1=CC(=C(C(=O)O)C=C1)C1=CC=C(C=C1)F | C19H15FN2O2
